US07105533B2
To thionyl chloride (20 mL) was added 3-methoxy-4-(pyridin-2-yl)benzoic acid (500 mg, 2.2 mmol). The mixture was heated at reflux for 3 h, cooled to rt, and concentrated. The resultant acid chloride was taken up in 20 mL of CH2Cl2 and the mixture cooled to 0° C. before addition of 2-nitroaniline (301 mg, 2.2 mmol) and triethylamine (0.3 mL, 2.2 mmol), and the solution warmed to rt overnight. The reaction mixture was diluted with CH2Cl2, washed successively with water, saturated Na2CO3, and brine, and the organic layer dried (MgSO4) and concentrated. The crude product was purified by flash column chromatography on silica gel eluting with EtOAc:hexanes (1:1 to 1:1) to afford the desired 3-methoxy-4-(pyridin-2-yl)-2′-nitrobenzanilide as a yellow solid.

reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-methoxy-4-(pyridin-2-yl)benzoic acid | 2.2 mmol, 500 mg | COC=1C=C(C(=O)O)C=CC1C1=NC=CC=C1 | C13H11NO3
reactant | 2-nitroaniline | 2.2 mmol, 301 mg | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | triethylamine | 2.2 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-methoxy-4-(pyridin-2-yl)-2′-nitrobenzanilide | COC=1C=C(C(=O)NC2=C(C=CC=C2)[N+](=O)[O-])C=CC1C1=NC=CC=C1 | C19H15N3O4
